US08791161B2
5-chloro-2-(((5-nitro-1H-pyrazol-3-yl)methyl)thio)aniline
(5-Nitro-1H-pyrazol-3-yl)methanol (524 mg, 3.66 mmol) was first treated with SOCl2 (3 ml) in CH2Cl2 (5 ml) at 35° C. for 2 hrs. The solvent was removed to get a crude 3-(chloromethyl)-5-nitro-1H-pyrazole. Then following General Procedure A, the title compound (515 mg, 49%) was prepared from 2-amino-4-chlorobenzenethiol (161 mg, 1.01 mmol), crude 3-(chloromethyl)-5-nitro-1H-pyrazole, K2CO3 (468 mg, 3.39 mmol) in DMF (3 ml).

reactant | 2-amino-4-chlorobenzenethiol | 1.01 mmol, 161 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 3-(chloromethyl)-5-nitro-1H-pyrazole | ClCC1=NNC(=C1)[N+](=O)[O-] | C4H4ClN3O2
reactant | K2CO3 | 3.39 mmol, 468 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-chloro-2-(((5-nitro-1H-pyrazol-3-yl)methyl)thio)aniline | 515 mg, 49% | ClC=1C=CC(=C(N)C1)SCC1=NNC(=C1)[N+](=O)[O-] | C10H9ClN4O2S
